US07238716B2
A mixture of 2-[5-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile (2.90 g), a 4N aqueous sodium hydroxide solution (15 mL) and ethanol (15 mL) was heated under reflux for 4 hrs. Water was added to the reaction mixture, and the reaction mixture was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give crystals (2.58 g, 85%) of 2-[5-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid. Recrystallization from tetrahydrofuran-hexane gave colorless prism crystals. melting point: 158-159° C.

reactant | 2-[5-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile | 2.90 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(COC=2C=C(C=NC2)CC#N)C=CC1 | C25H21N3O3
reactant | sodium hydroxide | 4N, 15 mL | [OH-].[Na+]
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | Water | O | H2O
product | 2-[5-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid | 2.58 g, 85% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(COC=2C=C(C=NC2)CC(=O)O)C=CC1 | C25H22N2O5
